US08633211B2
N-(5-Chloro-2,4-dimethoxy-phenyl)-2-{3-[2-((S)-3-dimethylamino-pyrrolidin-1-yl)-2-oxo-ethyl]-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl}-acetamide
To a vial charged with {1-[(5-chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid (50 mg, 0.11 mmol), HATU (46.6 mg, 0.12 mmol), and dimethyl-(S)-pyrrolidin-3-yl-amine (14.0 mg, 0.12 mmol) DCM (2 ml) is added. The mixture is treated with DIPEA (48.6 μL, 2.79 mmol) and stirred at RT for 1 hour. DCM (5 ml) is added to the mixture and washed with 1M HCl. The acidic aqueous phase is treated with 1M NaOH until the pH is adjusted to pH of 7-8. The product is extracted from the aqueous phase with EtOAc (3×10 ml). The organic portions are combined, washed with water (10 ml), dried (MgSO4), filtered and concentrated to afford the title compound, [M+H]+ 544

reactant | {1-[(5-chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid | 0.11 mmol, 50 mg | ClC=1C(=CC(=C(C1)NC(=O)CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)O)=O)OC)OC | C20H18ClN3O7
reactant | HATU | 0.12 mmol, 46.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dimethyl-(S)-pyrrolidin-3-yl-amine | 0.12 mmol, 2 ml, 14.0 mg | CN([C@@H]1CNCC1)C | C6H14N2
reactant | DIPEA | 2.79 mmol, 48.6 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Chloro-2,4-dimethoxy-phenyl)-2-{3-[2-((S)-3-dimethylamino-pyrrolidin-1-yl)-2-oxo-ethyl]-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl}-acetamide | ClC=1C(=CC(=C(C1)NC(CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)N1C[C@H](CC1)N(C)C)=O)=O)OC)OC | C26H30ClN5O6
